US06906072B1
Reference Example 69 2-(2-cyano-4-fluorophenoxy)ethylpiperazine
Under nitrogen atmosphere, potassium tert-butoxide (869 mg) was added to a tetrahydrofuran solution (10 ml) of benzyl 4-(2-hydroxyethyl)-1-piperazinecarboxylate (1.86 g) in an ice bath. After stirring for one hour, the reaction system was transferred to a dry ice-methanol bath, and after 10 minutes, a 2,5-difluorobenzonitrile (1.09 g)/tetrahydrofuran solution (5 ml) was added thereto. After stirring for 2 hours while the temperature of the reaction system was naturally returned to a room temperature, an aqueous saturated ammonium chloride and diethyl ether were added thereto, to separate the organic layer. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filtering off the drying agent, the filtrate was evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate system), to give a colorless oil as an intermediate (1.10 g, 46%). The intermediate (1.10 g) was dissolved in methanol (10 mL), 10% palladium carbon (100 mg) was added, and the mixture was stirred at room temperature under hydrogen atmosphere. After 1.5 hours, the reaction catalyst was filtered through Celite, and the filtrate was evaporated. The resulting title compound (647 mg, 80%) obtained was used for the next reaction as it was.

reactant | potassium tert-butoxide | 869 mg | CC(C)([O-])C.[K+]
reactant | benzyl 4-(2-hydroxyethyl)-1-piperazinecarboxylate | 1.86 g | OCCN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H20N2O3
reactant | 2,5-difluorobenzonitrile | 1.09 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2-cyano-4-fluorophenoxy)ethylpiperazine | 647 mg, 80% | C(#N)C1=C(OCCN2CCNCC2)C=CC(=C1)F | C13H16FN3O
